US03998829
21-Ethyl-3α-hydroxy-5α-pregnane-11,20-dione
Methyl lithium in ether (≈1.3M: 7.5 ml) was added slowly to a slurry of cuprous iodide (950 mg) in dry ether (40 ml) under nitrogen at -20°, the initial yellow precipitate just redissolving. 3α-Hydroxy-21-methylene-5α-pregnane-11,20-dione (500 mg) in dry ether (10 ml) was added rapidly to the solution forming a yellow precipitate. After 3/4 hr. at ≈0° the mixture was poured into saturated ammonium chloride solution and the oily precipitate extracted with ether. The extracts were washed with saturated ammonium chloride solution, then water, and dried over anhydrous sodium sulphate. The dried solution was evaporated to an off white foam (430 mg) which was purified by preparative t.l.c. in ethyl acetate/petrol (1:1). The main band (Rf ≈ 0.4) gave a white foam which on trituration with petrol, containing a small quantity of ether, gave title compound (320 mg.) as a white solid, m.p. 112°-113°, [α]D + 105° (c = 1.01).

reactant | Methyl lithium | C[Li]
reactant | 3α-Hydroxy-21-methylene-5α-pregnane-11,20-dione | 500 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C=C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C22H32O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | ≈1.3M, 7.5 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 21-Ethyl-3α-hydroxy-5α-pregnane-11,20-dione | 320 mg | C(C)CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C23H36O3
